US04211791
7-(3-[4-Acetyl-3-hydroxy-2-n-propylphenoxy]-2-hydroxypropoxy)-4-benzyloxycoumarin
A solution of 4-benzyloxy-7-hydroxycoumarin (5.36 g; 6.02 mole) in dry DMF (30 ml) was treated with 100% sodium hydride (0.48 g; 0.02 mole) and stirred at 100° for about 1 hr. To this was added a solution of 1-(4-Acetyl-3-hydroxy-2-n-propylphenoxy)-3-chloro-2-propanol (7 g) in DMF (2 ml) and the mixture stirred at 100° for an additional 4 hrs. After removal of the solvent in vacuo, water was added and the product extracted into chloroform. Chromatography of the extract on 300 g of silica gel eluting with chloroform afforded the title compound as a white crystalline solid of Rf 0.38. m.p. (EtOH) 172°-173°. Yield 4.38 g (42%). νmax (mull) 1715; 1630; 1620 cm-1. (DMSO) 9.19 (3H, t, J 7.0 Hz); 8.58 (2H, sextuplet, J. 7.0 Hz); 7.48 (3H, S+2H m); 6.71 (1H sharp exchangeable); 5.80 (5H, S); 4.68 (2H, S), 4.50 (1H, broad exchangeable); 4.13 (1H, S); 3.32 (1H, d, J 9 Hz); 3.12-2.15 (12H, m); 1 low field sharp exchangeable. (Found: C, 69.30; H, 5.80; C30H30O8 requires; C 69.49; H, 5.83%).

reactant | 4-benzyloxy-7-hydroxycoumarin | 6.02 mole, 5.36 g | C(C1=CC=CC=C1)OC1=CC(OC2=CC(=CC=C12)O)=O | C16H12O4
reactant | sodium hydride | 0.02 mole, 0.48 g | [H-].[Na+]
reactant | 1-(4-Acetyl-3-hydroxy-2-n-propylphenoxy)-3-chloro-2-propanol | 7 g | C(C)(=O)C1=C(C(=C(OCC(CCl)O)C=C1)CCC)O | C14H19ClO4
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 7-(3-[4-Acetyl-3-hydroxy-2-n-propylphenoxy]-2-hydroxypropoxy)-4-benzyloxycoumarin | C(C)(=O)C1=C(C(=C(OCC(COC2=CC=C3C(=CC(OC3=C2)=O)OCC2=CC=CC=C2)O)C=C1)CCC)O | C30H30O8
